US08242116B2
tert-Butyl 6-bromo-2,3-dihydro-4H-1,4-benzoxazine-4-carboxylate
To a stirred solution of 6-bromo-3,4-dihydro-2H-1,4-benzoxazine (4.0 g, 18.69 mmol) in THF (50 mL) was added NEt3 (2.8 mL, 18.69 mmol), followed by DMAP (0.02 g, 0.16 mmol) and di-tert-butyl dicarbonate (4.0 g, 18.69 mmol). The reaction mixture was stirred at 70° C. for 3 h, cooled to r.t., and then concentrated in vacuo. Purification by column chromatography (SiO2, 0-50% EtOAc/heptane) gave the title compound (2.19 g, 37%) as a colourless oil. δH (CDCl3) 7.94 (1H, s), 6.99 (1H, dd, J 8.7 and 2.3 Hz), 6.67 (1H, d, J 8.9 Hz), 4.22-4.09 (2H, m), 3.82-3.72 (2H, m), 1.49 (9H, s). LCMS (ES+) 315.0 (M+H)+, RT 4.52 minutes (Method 1).

reactant | 6-bromo-3,4-dihydro-2H-1,4-benzoxazine | 18.69 mmol, 4.0 g | BrC=1C=CC2=C(NCCO2)C1 | C8H8BrNO
reactant | NEt3 | 18.69 mmol, 2.8 mL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 18.69 mmol, 4.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.16 mmol, 0.02 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl 6-bromo-2,3-dihydro-4H-1,4-benzoxazine-4-carboxylate | 2.19 g, 37% | BrC=1C=CC2=C(N(CCO2)C(=O)OC(C)(C)C)C1 | C13H16BrNO3
